US04230706
To a mixture of 2-piperazino-4-amino-6,7-dimethoxyquinazoline (1 g), chloroform (50 ml) and triethylamine (0.42 g), was gradually added 1-adamantanecarbonyl chloride (0.83 g). The almost dissolved mixture was heated at 45°-50° C. for 2 hours. After cooling, the mixture was washed with water, dried over anhydrous sodium sulfate and evaporated under reduced pressure to give 2-{4-(1-adamantanecarbonyl)-1-piperazinyl}-4-amino-6,7-dimethoxyquinazoline, m.p. 240°-242° C.

reactant | 2-piperazino-4-amino-6,7-dimethoxyquinazoline | 1 g | N1(CCNCC1)C1=NC2=CC(=C(C=C2C(=N1)N)OC)OC | C14H19N5O2
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 1-adamantanecarbonyl chloride | 0.83 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
solvent | triethylamine | 0.42 g | C(C)N(CC)CC | C6H15N
product | 2-{4-(1-adamantanecarbonyl)-1-piperazinyl}-4-amino-6,7-dimethoxyquinazoline | C12(CC3CC(CC(C1)C3)C2)C(=O)N2CCN(CC2)C2=NC3=CC(=C(C=C3C(=N2)N)OC)OC | C25H33N5O3
